US06730783B2
{3-[5-Methyl-3-(2-(4-(carboxymethyl)piperazin-1-ylsulfonyl)phenylsulfonyloxy)phenoxy]propoxy}guanidine
The title compound was prepared in 85% yield from {3-[5-methyl-3-(2-(4-(ethoxycarbonylmethyl)piperazin-1-ylsulfonyl)phenylsulfonyloxy)phenoxy]propoxy}guanidine dihydrochloride, as prepared in step b of Example 58, in a manner analogous to Example 27. 1H-NMR (300 MHz, DMSO-d6) δ 11.12 (s, 1H), 8.27 (d, J=7.9 Hz, 1H), 8.18 (d, J=7.9 Hz, 1H), 8.08 (t, J=7.7 Hz, 1H), 7.94 (t, J=7.7 Hz, 1H), 7.69 (br s, 4H), 6.76 (s, 1H), 6.51 (s, 1H), 6.47 (s, 1H), 3.99 (t, J=6.2 Hz, 2H), 3.90 (t, J=6.3 Hz, 2H), 3.43 (br s, 6H), 3.25 (br s, 4H), 2.22 (s, 3H), 2.02 (pentet, J=6.2 Hz, 2H). Mass spectrum (MALDI-TOF, α-cyano-4-hydroxycinnamic acid matrix) calcd. for C23H31N5O9S2: 586.2 (M+H), 608.1 (M+Na). Found: 586.2, 608.0.

reactant | {3-[5-methyl-3-(2-(4-(ethoxycarbonylmethyl)piperazin-1-ylsulfonyl)phenylsulfonyloxy)phenoxy]propoxy}guanidine dihydrochloride | Cl.Cl.CC=1C=C(C=C(OCCCONC(=N)N)C1)OS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)N1CCN(CC1)CC(=O)OCC
reactant | α-cyano-4-hydroxycinnamic acid | C(#N)C(C(=O)O)=CC1=CC=C(C=C1)O | C10H7NO3
product | {3-[5-Methyl-3-(2-(4-(carboxymethyl)piperazin-1-ylsulfonyl)phenylsulfonyloxy)phenoxy]propoxy}guanidine | 85% yield | CC=1C=C(C=C(OCCCONC(=N)N)C1)OS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)N1CCN(CC1)CC(=O)O | C23H31N5O9S2
